US08084470B2
607 mg (4.4 mmol) of K2CO3 were added to a solution of 500 mg (2.0 mmol) of 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide (V1) in DMF (5 ml), and the mixture was stirred for 1 h at RT. 446 mg of (2-bromoethyl)-(cyclohexyl)sulfane (crude product V2) were then added, and stirring was continued for a further 18 h at RT. The mixture was then diluted with ethyl acetate, and water was added. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over MgSO4, filtered and concentrated in vacuo. CC (ethyl acetate/n-hexane 1:1) with the residue yielded 268 mg (0.68 mmol, 34%) of 2-(2-(cyclohexylthio)ethylthio)-N-(thiophen-2-ylmethyl)nicotinamide. MS: m/z 393.1 [M+H]+.

reactant | K2CO3 | 4.4 mmol, 607 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide | 2.0 mmol, 500 mg | SC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C11H10N2OS2
reactant | (2-bromoethyl)-(cyclohexyl)sulfane | 446 mg | BrCCSC1CCCCC1 | C8H15BrS
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2-(cyclohexylthio)ethylthio)-N-(thiophen-2-ylmethyl)nicotinamide | 0.68 mmol, 268 mg, 34% | C1(CCCCC1)SCCSC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C19H24N2OS3
